US06897231B2
C. [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-((2S,1R)-2-hydroxyindanyl)carboxamide
To a stirred solution of N-((1R,2S)-2-hydroxyindanyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide (0.339 g, 0.444 mmol) was added 4.0 M hydrochloric acid in dioxane (10.0 mL) and the mixture stirred at ambient temperature for 20 h. The mixture was cooled and poured into saturated sodium bicarbonate (50 mL). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Addition of ethyl acetate (5 mL) initiated crystal growth and the ethyl acetate phase was pipetted off. The crystals were filtered. Purification by preparative HPLC (30-80% acetonitrile/water) followed by washing with saturated sodium bicarbonate and extraction with ethyl acetate gave the title compound (0.0440 g, 23% yield). 1H NMR (CD3OD) δ 8.82 (s, 1H), 8.58 (s, 1H), 8.24 (d, 1H), 8.12 (d, 1H), 8.00 (d, 1H), 7.70 (t, 2H), 7.37 (d, 1H), 7.27 (m, 3H), 5.63 (d, 1H), 4.74 (m, 1H), 3.26 (dd, 1H), 3.05 (dt, 1H). ES-MS (m/z) 437 [M+1]+

reactant | N-((1R,2S)-2-hydroxyindanyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 0.444 mmol, 0.339 g | O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC(=O)C1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C49H42N6O3
reactant | hydrochloric acid | 4.0 M | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-((2S,1R)-2-hydroxyindanyl)carboxamide | 0.0440 g, 23% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)N[C@H]1[C@H](CC2=CC=CC=C12)O | C25H20N6O2
